US04621084
5-(3-Dimethylaminomethylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzothiazolinone (6.35 g) was prepared in substantially the same manner as that of Example 50 from 5-(imidazo[1,2-a]pyridin-2-yl)-3-methyl-2benzothiazolinone (8.86 g), 30% aqueous formaldehyde (2.57 g) and 50% aqueous dimethylamine (2.97 g).

reactant | 5-(imidazo[1,2-a]pyridin-2-yl)-3-methyl-2benzothiazolinone | 8.86 g | N=1C(=CN2C1C=CC=C2)C=2C=CC1=C(N(C(S1)=O)C)C2 | C15H11N3OS
reactant | formaldehyde | 2.57 g | C=O | CH2O
reactant | dimethylamine | 2.97 g | CNC | C2H7N
product | 5-(3-Dimethylaminomethylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzothiazolinone | 6.35 g | CN(C)CC1=C(N=C2N1C=CC=C2)C=2C=CC1=C(N(C(S1)=O)C)C2 | C18H18N4OS
